US04588732
Peracetic acid (40%, 8.9 ml) is added dropwise to 2-(p-ethoxycarbonylphenyl)-pyridine (14.08 g) so as to maintain the reaction between 80° and 85°. After the addition is complete the reaction is heated at 90° for 3 hours, allowed to cool to room temperature and excess peracetic acid is destroyed with aqueous sodium sulfite. The solvent is evaporated and the residue taken up in methylene chloride and refiltered through celite. Evaporation yields 2-(p-ethoxycarbonylphenyl)pyridine-N-oxide which is treated with dimethyl sulfate (8.66 g) in 62 ml of toluene at 90° for 3 hours. The solvent is evaporated and the residue redissolved in an ice-cold mixture of 8 ml of water and 9.3 ml of 1N sodium hydroxide. A solution of potassium cyanide (13.64 g) in 10 ml of water is added slowly and the reaction mixture is maintained at 0° for 24 hours. Extraction with methylene chloride (2×30 ml), drying over sodium sulfate and evaporation of solvent yields 6-cyano-2-(p-ethoxycarbonylphenyl)pyridine; IR (CH2Cl2) 2200 cm-1.

reactant | Peracetic acid | 8.9 ml | C(C)(=O)OO | C2H4O3
reactant | 2-(p-ethoxycarbonylphenyl)-pyridine | 14.08 g | C(C)OC(=O)C1=CC=C(C=C1)C1=NC=CC=C1 | C14H13NO2
product | 2-(p-ethoxycarbonylphenyl)pyridine-N-oxide | C(C)OC(=O)C1=CC=C(C=C1)C1=[N+](C=CC=C1)[O-] | C14H13NO3
